US05633247
6-Methanesulfonamido-3,4-dihydro-1'-(2-(4-acetamidophenyl)ethyl)-spiro[(2H)-1-benzopyran-2,4'-piperidine]-4-one
A suspension of 6-methanesulfonamido-3,4-dihydro-1'-(2-(4-aminophenyl)ethyl)-spiro[(2H)-1-benzopyran-2,4'-piperidine]-4-one (0.50 g, 1.2 mmol), and pyridine (0.09 mL, 1.2 mmol) in 25 mL of methylene chloride was cooled in an ice bath and treated dropwise with acetyl chloride (0.09 mL, 1.2 mmol). The mixture was stirred at 0° C. for 2 hours, and then filtered. The tan solid was washed with methylene chloride and dried in the air. The solid was found to be a mixture by thin layer analysis, and was chromatographed on silica gel using 10% methanol in methylene chloride eluant. The pure oil was dissolved in 20 mL of absolute ethanol and was treated with excess 4.8N ethanolic HCl. The solution was then concentrated to 10 mL. The resulting ivory colored solid was collected, washed with diethyl ether, and dried 3 hours at 100° C. under vacuum to give 0.10 g (18%) of product, mp 294° C. (dec).

reactant | 6-methanesulfonamido-3,4-dihydro-1'-(2-(4-aminophenyl)ethyl)-spiro[(2H)-1-benzopyran-2,4'-piperidine]-4-one | 1.2 mmol, 0.50 g | CS(=O)(=O)NC=1C=CC2=C(C(CC3(CCN(CC3)CCC3=CC=C(C=C3)N)O2)=O)C1 | C22H27N3O4S
reactant | pyridine | 1.2 mmol, 0.09 mL | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 1.2 mmol, 0.09 mL | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | 6-Methanesulfonamido-3,4-dihydro-1'-(2-(4-acetamidophenyl)ethyl)-spiro[(2H)-1-benzopyran-2,4'-piperidine]-4-one | 0.10 g, 18% | CS(=O)(=O)NC=1C=CC2=C(C(CC3(CCN(CC3)CCC3=CC=C(C=C3)NC(C)=O)O2)=O)C1 | C24H29N3O5S
